* test diode model with sine voltage
R1 N001 N002 1k
V1 N001 0 SINE(0 10 1k)
D1 N002 0 D
.model D D
.lib /Users/ouikujie/Library/Application Support/LTspice/lib/cmp/standard.dio
.tran 0 2ms 0 1us
.backanno
.end
